US07776864B2
Step 6: 6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrazolo[1,5-a]pyrimidine hydrochloride
The hydrochloride can be obtained by adding a hydrochloric acid solution (5.84N in methanol) to a methanolic solution of 6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrazolo[1,5-a]pyrimidine, stirring at room temperature for at least 1 hour and removing the solvent from the solid product.

reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 5.84N | Cl | ClH
reactant | 6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2 | C31H28N8
product | 6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)pyrazolo[1,5-a]pyrimidine hydrochloride | Cl.C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2 | InChI=1S/C31H28N8.ClH/c1-2-6-23(7-3-1)26-21-39-28(13-17-33-39)34-29(26)24-11-9-22(10-12-24)20-38-18-14-25(15-19-38)30-35-31(37-36-30)27-8-4-5-16-32-27;/h1-13,16-17,21,25H,14-15,18-20H2,(H,35,36,37);1H
